US03995052
N,N,1-Trimethyl-1,3,4,9-tetrahydroindeno[2,1-c]thiopyran-1-ethylamine [1; R1 = CH3, R2, R3, R4, R5, R6 and R7 = H and Y = CH2CH2N(CH3)2 ]
The amide, N,N,1-trimethyl-1,3,4,9-tetrahydroindeno[2,1-c]thiopyran-1-acetamide (2.7 g), described in Example 196, in anhydrous ether (200 ml) is added dropwise to a stirred suspension of lithium alumimum hydride (1.0 g) in 100 ml of anhydrous ether. The mixture is stirred at room temperature for 30 min. Excess hydride is decomposed with water (4 ml). The mixture is filtered. The filtrate is dried (MgSO4) and concentrated to give the title compound, nmr (CDCl3), 1.45 (s, 3H), 3.50 (m, 2H), 7.32 (m, 4H).

reactant | N,N,1-trimethyl-1,3,4,9-tetrahydroindeno[2,1-c]thiopyran-1-acetamide | 2.7 g | CN(C(CC1(SCCC2=C1CC=1C=CC=CC12)C)=O)C | C17H21NOS
reactant | lithium alumimum hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydride | [H-]
reactant | water | 4 ml | O | H2O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N,N,1-Trimethyl-1,3,4,9-tetrahydroindeno[2,1-c]thiopyran-1-ethylamine | CN(CCC1(SCCC2=C1CC=1C=CC=CC12)C)C | C17H23NS
